US05455267
2.30 g of 7-(1-ethylpropoxy)-5-hydroxy-2-{4-[4-(4-methylpiperazinomethyl)benzoyloxy]phenylthio}-6-methoxychromone was dissolved in 30 ml ether, 20% hydrochloric acid-ethanol was added, and the solution was stirred over 20 min., under cooling on ice. The resulting crystals were collected by filtration and dried, whereby 2.35 g of 7-(1-ethylpropoxy)-5-hydroxy-2-{4-[4-(4-methylpiperazinomethyl)benzoyloxy]phenylthio }-6-methoxychromone dihydrochloride with the following physicochemical properties was obtained.

reactant | 7-(1-ethylpropoxy)-5-hydroxy-2-{4-[4-(4-methylpiperazinomethyl)benzoyloxy]phenylthio}-6-methoxychromone | 2.30 g | C(C)C(CC)OC1=C(C(=C2C(C=C(OC2=C1)SC1=CC=C(C=C1)OC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)=O)O)OC | C34H38N2O7S
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 7-(1-ethylpropoxy)-5-hydroxy-2-{4-[4-(4-methylpiperazinomethyl)benzoyloxy]phenylthio }-6-methoxychromone dihydrochloride | 2.35 g | Cl.Cl.C(C)C(CC)OC1=C(C(=C2C(C=C(OC2=C1)SC1=CC=C(C=C1)OC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)=O)O)OC | InChI=1S/C34H38N2O7S.2ClH/c1-5-24(6-2)41-29-20-28-31(32(38)33(29)40-4)27(37)19-30(43-28)44-26-13-11-25(12-14-26)42-34(39)23-9-7-22(8-10-23)21-36-17-15-35(3)16-18-36;;/h7-14,19-20,24,38H,5-6,15-18,21H2,1-4H3;2*1H
